US06372758B1
Part G: Preparation of Methyl 1-(phenylmethyl)-4-[[4-[4-(trifluoromethoxy)phenoxy]-1-piperidinyl]sulfonyl]-4-piperidinecarboxylate. To a solution of the methylene sulfonamide from part F (20.46 g, 51.5 mmol) in dimethylformamide (90 mL) was added potassium carbonate (21.3 g, 154.7 mmol), bis-(2-chloroethyl)benzyl amine (12.0 g, 51.5 mmol; and 18-Crown-6 (700 mg). The slurry was stirred at 60° C. After twenty four hr the reaction was concentrated in vacuo. The residue was taken up in ethyl acetate, washed with water three times, saturated sodium chloride solution, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was recrystallized (methanol) to give the N-benzyl piperidine sulfonamide as a white solid (15 g, 52%).

reactant | Methyl 1-(phenylmethyl)-4-[[4-[4-(trifluoromethoxy)phenoxy]-1-piperidinyl]sulfonyl]-4-piperidinecarboxylate | C1(=CC=CC=C1)CN1CCC(CC1)(C(=O)OC)S(=O)(=O)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F | C26H31F3N2O6S
reactant | methylene sulfonamide | C=NS(=O)=O | CH3NO2S
reactant | potassium carbonate | 154.7 mmol, 21.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | bis-(2-chloroethyl)benzyl amine | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
reactant | 18-Crown-6 | 700 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | N-benzyl piperidine sulfonamide | 15 g, 52% | C(C1=CC=CC=C1)NS(=O)(=O)N1CCCCC1 | C12H18N2O2S
